US04407797
A suspension of 5-morpholino-1,2-dithiol-3-thione (2.62 g), 4-methoxyphenacyl bromide (4.12 g) and sodium iodide (3 g) in acetone (60 cc) is heated to the reflux temperature and maintained there for 2 hours. After cooling to a temperature of about 20° C., the insoluble product is filtered off and washed successively with acetone (30 cc), distilled water (2×40 cc) and acetone (2×30 cc). The product thus obtained is suspended in methylene chloride (110 cc). After stirring for 1 hour at a temperature of about 20° C., the insoluble product is separated by filtration. N-[5-(4-Methoxyphenacylthio)-1,2-dithiol-3-ylidene]-morpholinium iodide, melting at 152°-155° C., is thus obtained.

reactant | 5-morpholino-1,2-dithiol-3-thione | 2.62 g | O1CCN(CC1)C1=CC(SS1)=S | C7H9NOS3
reactant | 4-methoxyphenacyl bromide | 4.12 g | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | sodium iodide | 3 g | [I-].[Na+]
solvent | acetone | 60 cc | CC(=O)C | C3H6O
solvent | methylene chloride | 110 cc | C(Cl)Cl | CH2Cl2
product | N-[5-(4-Methoxyphenacylthio)-1,2-dithiol-3-ylidene]-morpholinium iodide | [I-].COC1=CC=C(C(CSC2=CC(SS2)=[N+]2CCOCC2)=O)C=C1 | InChI=1S/C16H18NO3S3.HI/c1-19-13-4-2-12(3-5-13)14(18)11-21-16-10-15(22-23-16)17-6-8-20-9-7-17;/h2-5,10H,6-9,11H2,1H3;1H/q+1;/p-1
